US04079181
To a solution of p-nitrobenzyl α-[4-cyclopropylmethoxycarbonylthio-3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(1-methanesulfonyloxyethylidene)acetate (1.12 g) in benzene (11 ml) is added morpholine (0.26 ml) under ice cooling, and the mixture is kept at 10° C overnight. The reaction mixture is washed with water, dried, and evaporated under reduced pressure. Purification of the obtained residue (1 g) by chromatograaphy over silica gel (10 g) using a mixture of benzene and ethyl acetate (1:2) gives p-nitrobenzyl α-[4-cyclopropylmethoxycarbonylthio-3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(1-morpholinoethylidene)acetate (602 mg). Foam. IR: νmaxCHCl3 3430, 1774, 1694br, 1604, 1105, cm-1. NMR: δCDCl3 0.22m5H, 2.27+2.24s3H, 3.43m4H, 3.77m4H, 4.02d(6.4Hz)2H, 4.57s2H, 5.05-5.27m3H, 5.89d(5.4Hz)1H, 4.12-7.65m7H, 8.23d(8.4Hz)2H.

reactant | p-nitrobenzyl α-[4-cyclopropylmethoxycarbonylthio-3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(1-methanesulfonyloxyethylidene)acetate | 1.12 g | C1(CC1)COC(=O)SC1C(C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)OS(=O)(=O)C)=O)NC(COC1=CC=CC=C1)=O | C28H29N3O12S2
reactant | morpholine | 0.26 ml | N1CCOCC1 | C4H9NO
solvent | benzene | 11 ml | C1=CC=CC=C1 | C6H6
product | p-nitrobenzyl α-[4-cyclopropylmethoxycarbonylthio-3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(1-morpholinoethylidene)acetate | 602 mg | C1(CC1)COC(=O)SC1C(C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)N1CCOCC1)=O)NC(COC1=CC=CC=C1)=O | C31H34N4O10S
